2142-09-23 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   HCT -> 25.6 -> 25.5 -> 25.4 -> 25.4
   Patient tachypnic with diffuse expiratory wheezes.  Nebs were stacked
   with some minimal improvement.  O2 requirement was stable.  Nebs
   changed to q4hr standing.  Recommended prednisone for COPD
   exacerbation, but pt refused.
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2142-9-22**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-9-23**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 113 (84 - 124) bpm
   BP: 108/51(63) {92/41(55) - 129/80(86)} mmHg
   RR: 15 (12 - 21) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,028 mL
                                                                    184 mL
   PO:
                                                                    390 mL
             TF:
                                                                     55 mL
                                                                    108 mL
   IVF:
                                                                  1,144 mL
                                                                     76 mL
   Blood products:
                                                                    288 mL
   Total out:
                                                                  1,265 mL
                                                                    430 mL
   Urine:
                                                                  1,265 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    763 mL
                                                                   -246 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   Gen: Cachectic, uncomfortable, NAD.
   Abdomen: J-tube in place. Soft, tender to palpation diffused. Not
   distended. No guarding or rebound.
   Lungs: Bilateral expiratory wheezes NOT improved from last PM.
   Heart: Tachycardic. No murmurs.
   Extremities: Wasted, warm, well perfused. No edema.
   Labs / Radiology
   410 K/uL
   8.3 g/dL
   94 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.7 mEq/L
   5 mg/dL
   108 mEq/L
   138 mEq/L
   25.4 %
   11.6 K/uL
        [image002.jpg]
                             [**2142-9-22**]  04:21 AM
                             [**2142-9-22**]  02:33 PM
                             [**2142-9-22**]  11:48 PM
                             [**2142-9-23**]  03:52 AM
   WBC
   12.0
   11.6
   Hct
   25.6
   25.5
   25.4
   25.4
   Plt
   409
   410
   Cr
   0.4
   0.4
   Glucose
   93
   94
   Other labs: ALT / AST:[**6-7**], Alk Phos / T Bili:99/0.5, Amylase /
   Lipase:80/8, Differential-Neuts:87.3 %, Band:0.0 %, Lymph:9.0 %,
   Mono:3.5 %, Eos:0.1 %, Lactic Acid:1.8 mmol/L, LDH:165 IU/L, Ca++:7.6
   mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   66 yo F with a complicated history of s/p esophagectomy [**2139**], presents
   with abdominal pain, hematemesis, and melena.
   #. Hematemesis and melena: HCts are flat at 25.  Differential includes
   esophagitis, esophageal tear, esophageal ulcer or varices, gastritis,
   esophageal carcinoma.  EGD on [**9-12**] showed erythema and friability of
   esophagus consistent with esophagitis.
   Diverticulosis was seen on sigmoidoscopy. No evidence of AV
   malformation, or colitis.
   -2 large PIVs
   -volume rescusitation with NS
   -Active type and screen
   -transfuse to keep HCT>21
   -check Hct qday
   -follow up with GI
   #. Increased respiratory effort: CTA negative for PE, but aspiration
   pneumonitis vs. pneumonia.  Patient with new expiratory wheezes
   overnight.  Recommended Prednisone for COPD exacerbation but patient
   refused.  Tachypneic, with increased O2 requirement but sating well.
   Patient denies fevers, but white count is elevated.
   -CXR
   -sputum cultures
   -will treat as aspiration pneumonitis, but start Abx if pt spikes or
   WBC increases
   -strongly recommend prednisone for COPD
   -continue nebulizers Q4hrs
   -supplemental oxygen
   #. Tachycardia, hypotension: Most likely secondary to GI bleed and
   volume loss. Tachycardia may be secondary to pain. EKG yesterday with
   sinus rhythm.
   -continue IV NS boluses PRN
   -transfuse PRBCs to maintain HCT>21
   - will tentatively continue Beta blocker if remains normotensive. If
   signs of true volume depletion will hold BB.
   -F/U BCx, UCx, CXR, C diff to rule out infection
   #. Abdominal Pain: Colonoscopy and Sigmoidoscopy in the past 2 days
   shows only diverticulosis.  [**Month (only) 8**] be secondary to blood in GI tract, or
   gastroparesis. LFTs are normal. This has been worked up with no
   solution as an outpatient.
   -pain control: IV dilaudid
   -continue antiemetics: Reglan, zofran
   -continue protonix, prilosec
   #. COPD
   -continue  home regimen of Combivent, flonase
   -maintain O2 sats around 90% with supplemental oxygen
   -strongly recommend prednisone for wheezing
   -daily chest x-rays
   #. Anemia: Hct are flat yesterday.
   -transfuse for >21
   -trend HCTs [**Hospital1 **]
   -continue home Ferrous Sulfate
   #. Probable non anion gap metabolic acidosis: Most likely secondary to
   diarrhea and GI losses.
   -will continue to follow
   #. Failure to thrive: secondary to esophagectomy.  Restart TF.
   7. FEN: Restart TF. Repleat lytes.
   8. Access: PICC, PIV. Foley.
   9. Full Code.
   10. Health care proxy: Daughter [**Known firstname 341**] [**Name (NI) 342**] [**Telephone/Fax (1) 343**]
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2142-9-22**] 06:29 PM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2142-9-22**] 02:13 AM
   20 Gauge - [**2142-9-22**] 06:59 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Patient seen and examined with housestaff. Agree with findings above. I
   would add the following:
   66 yr old woman s/p distal esophagectomy due to esophageal perf (EGD),
   gastric pullup in [**2139**]
   COPD (severe by CT), GERD, osteoporosis, L3 compression fracture, OA,
   no hx of Afib or CAD.
   Admitted with failure to thrive, hypotension, hypoxemia
   Overnight
 hct stable, wheezes, patient refused to be started on
   prednisone
   This AM had coffee-ground/clear liquid emesis
   I/o + 700 cc
   Exam
 cachectic, no distress, few wheezes L>R, decreased BS, irreg HR,
   abd soft, nontender, edema left foot
   Labs significant for wbc 11.6, hct 25, K and Mg low.
   Meds
 lopressor, ppi, megace, flonase, senna/colace, iron, prednisone
   (refused), nebs
   Impression
   1 - UGI bleed / Anemia
 hct trending down, keep hct at least 25, hold
   on transfusion for now
   2 - afib
 was in afib on previous ECGs
   3
 chronic respiratory failure - severe COPD, LLL collapse, without
   exacerbation. Add Advair, hold albuterol nebs
   4
 FEN
 try restarting tube feeds, may need TPN given poor nutrition
   status
   5
 prophylaxis
 boots and out of bed
   6
 Code status needs to be addressed
   35 min CC time, full code
   ------ Protected Section Addendum Entered By:[**Name (NI) 366**] [**Last Name (NamePattern1) 15**], MD
   on:[**2142-9-23**] 10:36 ------

2142-09-24 11:01:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   States to feel improved overall, but remains dypneic.
   Sitting up in chair during AM rounds.
   Describes diffuse abdominal pain, unchanged.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2142-9-24**] 08:00 AM
   Carafate (Sucralfate) - [**2142-9-24**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation, PEG
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**4-3**] Mild
   Pain location: abdominal, diffuse
   Flowsheet Data as of  [**2142-9-24**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 79 (79 - 160) bpm
   BP: 106/58(69) {92/47(62) - 140/90(100)} mmHg
   RR: 13 (10 - 26) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,632 mL
                                                                    197 mL
   PO:
             TF:
                                                                    142 mL
                                                                    100 mL
   IVF:
                                                                  1,310 mL
                                                                     97 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    495 mL
   Urine:
                                                                  1,600 mL
                                                                    495 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                   -268 mL
                                                                   -298 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///27/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , Wheezes
   : expiratory, diffuse, No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.4 g/dL
   377 K/uL
   90 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.9 mEq/L
   4 mg/dL
   106 mEq/L
   140 mEq/L
   25.9 %
   10.6 K/uL
        [image002.jpg]
                             [**2142-9-22**]  04:21 AM
                             [**2142-9-22**]  02:33 PM
                             [**2142-9-22**]  11:48 PM
                             [**2142-9-23**]  03:52 AM
                             [**2142-9-23**]  03:00 PM
                             [**2142-9-23**]  11:42 PM
                             [**2142-9-24**]  04:06 AM
   WBC
   12.0
   11.6
   10.6
   Hct
   25.6
   25.5
   25.4
   25.4
   25.3
   25.5
   25.9
   Plt
   [**Telephone/Fax (3) 374**]
   Cr
   0.4
   0.4
   0.4
   Glucose
   93
   94
   90
   Other labs: PT / PTT / INR:15.3/33.9/1.4, ALT / AST:[**6-7**], Alk Phos / T
   Bili:99/0.5, Amylase / Lipase:80/8, Differential-Neuts:87.3 %, Band:0.0
   %, Lymph:9.0 %, Mono:3.5 %, Eos:0.1 %, Lactic Acid:1.8 mmol/L, LDH:165
   IU/L, Ca++:7.4 mg/dL, Mg++:1.6 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   GI bleed, COPD exacerbation.
   DYSPNEA -- attributed to underlying COPD (advanced), perhaps worsened
   by aspiration, atalectasis.  Monitor.  Provide supplimental O2,
   maintain SaO2 >90%.
   COPD -- advanced.  Continue COPD regimen.
   GI BLEED -- esophogitis, diffuse.  Clinically stable, without further
   evidence for GI bleed.
   ANEMIA -- stable, s/p bleed attributed to esophogitis.
   FLUIDS -- euvolemic.  Monitor I/O.  Maintain balance.
   NUTRITIONAL SUPPORT -- advance TF via PEG.
   UTI -- enterococcus.  change foley.  Ampicillin.
   TACHYCARDIA -- MAT, related to COPD.  Monitor HR.  Replete Mg++
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2142-9-22**] 02:13 AM
   20 Gauge - [**2142-9-22**] 06:59 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes

2142-09-25 12:09:00 Physician Attending Progress Note
Chief Complaint: GI bleed; tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - STOP [**2142-9-24**] 04:48 [**Hospital 388**]
   Transferred to medical floor last PM.
   This AM, experienced nausea, coffee-ground emesis, melana associated
   with tachycardia.  No hypotension or hypertension.  Evaluated by GI
   consulation at the bedside, considering repeat EGD.  Now transferred
   back to MICU service for further evaluation and management.
   Following arrival in MICU, currently feels much improved.  Nausea
   resolved.  No further coffee-grounds.  Denies increased dyspnea, chest
   pain, or change in abdominal pain.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Ampicillin - [**2142-9-24**] 12:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**4-3**] Mild
   Pain location: abdominal pain
   Flowsheet Data as of  [**2142-9-25**] 12:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 122 (82 - 122) bpm
   BP: 113/78(86) {104/56(72) - 121/78(86)} mmHg
   RR: 18 (13 - 19) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                    566 mL
                  PO:
                  TF:
                                                                    198 mL
   IVF:
                                                                    308 mL
   Blood products:
   Total out:
                                                                    945 mL
                                                                      0 mL
   Urine:
                                                                    945 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -379 mL
                                                                      0 mL
   Respiratory support
   SpO2: 96%
   ABG: ////
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   Wheezes : scattered, No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: diffuse, mild, No(t) Obese, PEG site erythema
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, year, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.4 g/dL
   377 K/uL
   90 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.9 mEq/L
   4 mg/dL
   106 mEq/L
   140 mEq/L
   25.9 %
   10.6 K/uL
        [image002.jpg]
                             [**2142-9-22**]  04:21 AM
                             [**2142-9-22**]  02:33 PM
                             [**2142-9-22**]  11:48 PM
                             [**2142-9-23**]  03:52 AM
                             [**2142-9-23**]  03:00 PM
                             [**2142-9-23**]  11:42 PM
                             [**2142-9-24**]  04:06 AM
   WBC
   12.0
   11.6
   10.6
   Hct
   25.6
   25.5
   25.4
   25.4
   25.3
   25.5
   25.9
   Plt
   [**Telephone/Fax (3) 374**]
   Cr
   0.4
   0.4
   0.4
   Glucose
   93
   94
   90
   Other labs: PT / PTT / INR:15.3/33.9/1.4, ALT / AST:[**6-7**], Alk Phos / T
   Bili:99/0.5, Amylase / Lipase:80/8, Differential-Neuts:87.3 %, Band:0.0
   %, Lymph:9.0 %, Mono:3.5 %, Eos:0.1 %, Lactic Acid:1.8 mmol/L,
   Albumin:2.1 g/dL, LDH:165 IU/L, Ca++:7.4 mg/dL, Mg++:1.6 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   GI bleed
   GI BLEED -- chronic, recurrent.  Current episode clinically limited.
   Further management per GI consultants.
   ANEMIA -- chronic.  Blood loss.  Hct currently at baseline, but may
   drop with dilution.  Monitor.
   TACHYCARDIA -- MAT by EKG.  Monitor.
   COPD -- advanced.  Limited.  Continue usual medication, MDI.
   NAUSEA -- chronic.  Short gut syndrome.  Symptomatic relief.
   FLUIDS -- hypovelemia.  Replete to urine output, HR, BP.  Monitor I/O.
   UTI -- E. coli.  Continue antibiotic.
   NUTRITIONAL SUPPORT -- Erythematous PEG site --> ostomy nurse
   consultation.  NPO pending evaluation.
   ELEVATED LEFT HEMIDIAPHRAGM -- chronic, stable.  Associated
   atalectasis.  Monitor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2142-09-26 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2142-9-25**] 11:00 AM
   -No other episodes of N/V
   -Pateint received 2U PRBC with Hct increase from 25 to 33.
   -GI indicated that they would defer further imaging as the risk would
   outweigh the benefits.
   -Uptitrated Metoprolol to 37.5 [**Hospital1 **] with HR in the 80s this AM
   - Echo with normal chamber sizes and hyperdynamic LV, EF = 80%,
   Moderate systolic pulmonary hypertension
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Ampicillin - [**2142-9-26**] 06:01 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2142-9-26**] 06:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-9-26**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.4
C (99.3
   HR: 81 (81 - 122) bpm
   BP: 114/60(71) {97/42(57) - 147/78(90)} mmHg
   RR: 15 (14 - 29) insp/min
   SpO2: 94%
   Heart rhythm: MAT (Multifocal atrial tachycardia)
             Total In:
                                                                  1,861 mL
                                                                    883 mL
   PO:
             TF:
   IVF:
                                                                  1,111 mL
                                                                    883 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,730 mL
                                                                  1,040 mL
   Urine:
                                                                  1,730 mL
                                                                  1,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    131 mL
                                                                   -157 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   GEN
 NAD, AO x3
   CV- Irregular rate, Rhythym normal, No M/R/G
   Pulm- Low air movement, Mild end expiratory wheezes
   Abd- Soft, diffusely TTP, PEG/J-tube in place with new bandage over it.
   Extr- Wasted musculature, WWP, Edema at ankles.
   Labs / Radiology
   331 K/uL
   10.7 g/dL
   78 mg/dL
   0.4 mg/dL
   29 mEq/L
   4.1 mEq/L
   4 mg/dL
   105 mEq/L
   139 mEq/L
   31.5 %
   11.0 K/uL
        [image002.jpg]
                             [**2142-9-22**]  02:33 PM
                             [**2142-9-22**]  11:48 PM
                             [**2142-9-23**]  03:52 AM
                             [**2142-9-23**]  03:00 PM
                             [**2142-9-23**]  11:42 PM
                             [**2142-9-24**]  04:06 AM
                             [**2142-9-25**]  07:24 AM
                             [**2142-9-25**]  11:12 AM
                             [**2142-9-26**]  12:02 AM
                             [**2142-9-26**]  03:51 AM
   WBC
   11.6
   10.6
   11.0
   Hct
   25.5
   25.4
   25.4
   25.3
   25.5
   25.9
   25.5
   33.8
   31.5
   Plt
   [**Telephone/Fax (3) 391**]
   Cr
   0.4
   0.4
   0.4
   TropT
   <0.01
   Glucose
   94
   90
   78
   Other labs: PT / PTT / INR:15.7/32.4/1.3, CK / CKMB /
   Troponin-T:33/3/<0.01, ALT / AST:[**6-7**], Alk Phos / T Bili:99/0.5, Amylase
   / Lipase:80/8, Differential-Neuts:87.3 %, Band:0.0 %, Lymph:9.0 %,
   Mono:3.5 %, Eos:0.1 %, Lactic Acid:1.8 mmol/L, Albumin:2.1 g/dL,
   LDH:165 IU/L, Ca++:7.3 mg/dL, Mg++:1.5 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   66 yo F with a complicated GI history s/p esophagectomy [**2139**] now
   transferred with recurrent coffee ground emesis, melena and multifocal
   atrial tachycardia with rates in 120-140s.
   .
   # Upper GI bleed: Pt with recurrent coffee ground emesis and melena,
   though hct has remained stable at 25 for >3days. Etiology for bleed
   unclear given most recent EGD on [**9-19**] was normal. Differential includes
   esophagitis, esophageal tear, esophageal ulcer or varices and
   gastritis.
   -strict NPO, plan for EGD in am
   -PICC, assess for second PIV
   -NS boluses for volume resuscitation
   -maintain active T&S
   -transfuse 2u prbcs now per GI, goal hct>30
   -trend hct TID
   -f/u stat coags
   -f/u GI recs
   -IV PPI [**Hospital1 **]
   .
   # Multifocal atrial tachycardia/CP: Most likely secondary to underlying
   pulm disease and increased adrenergic tone in setting of recurrent
   vomiting
   - Echo with normal chamber sizes and hyperdynamic LV, EF = 80%,
   Moderate systolic pulmonary hypertension
   -CE normal x1
   -continue to monitor on telemetry
   -Continue metoprolol to 37.5mg TID and digoxin 0.125mg
   -t/b with cardiology regarding ?risk of stroke with MAT
   .
   # Abdominal Pain: Acute on chronic, this is most likely secondary to
   blood in GI tract, esophagitis/gastritis vs gastroparesis. LFTs were
   checked on [**9-22**] and have been normal. Epigastric pain less likely due
   to cardiac ischemia but will cycle CE to rule out ischemia given some
   new inferior TWI seen on EKGs with rapid HRs.
   -pain control: PO & IV dilaudid
   -continue aggressive antiemesis: Reglan, Zofran, Phenergan, Ativan
   -continue PPI IV BID
   -strict NPO for now
   .
   # COPD: Pt with severe emphysema and e/o collapsed left lower lobe on
   last CT chest. Pt has had some improvement in SOB since adding
   inhalers, but still having some mild SOB with minimal O2 requirement.
   CXR has been stable, and crackles on exam likely due to LLL collapse.
   Low grade temp at 100.1 more likely due to GI bleed or inflammation,
   less likely due to new pulm process, but will continue to trend fevers
   & CIS.
   -continue supplemental O2 with goal sats 90-93
   -f/u am CXR
   -continue tiotropium/advair/xopenex
   -trend fever curve
   .
   # Anemia: Most recent baseline in 25-30 range, has been stable at 25
   for last 3 days despite intermittent coffee ground emesis. Pt also has
   underlying anemia of chronic disease.
   -transfuse 2u PRBCs for goal hct of 30
   -trend HCTs
   -restart Ferrous Sulfate when taking po
   .
   # J-tube not flushing: will attempt to clear with coke
   - consider IR guided flush with gastrograffin
   .
   #. Failure to thrive: Chronic issue, strict NPO for now given recurrent
   emesis.
   - Will restart TFs/diet after EGD
   #. FEN: NPO through tomorrow for EGD in am
   - monitor lytes & replete aggressively
   #. Access: PICC, will assess for PIV
   #. Full Code
   #. Health care proxy: Daughter [**Known firstname 341**] [**Name (NI) 342**] [**Telephone/Fax (1) 343**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2142-9-25**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2142-09-26 10:26:00 Physician Attending Progress Note
Chief Complaint: GI bleeding
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2142-9-25**] 11:00 AM
   Reduced nausea, vomitting.  No further hematemesis.
   Received 2 U PRBC.
   Tachycardia improved, with titration of cardiac meds.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Codeine
   Hives;
   Last dose of Antibiotics:
   Ampicillin - [**2142-9-26**] 06:01 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2142-9-26**] 06:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss, low grade
   fever
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**1-31**] Minimal
   Pain location: diffuse abdominal pain
   Flowsheet Data as of  [**2142-9-26**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (98.9
   HR: 72 (72 - 122) bpm
   BP: 117/57(70) {97/42(57) - 147/78(90)} mmHg
   RR: 14 (14 - 29) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,861 mL
                                                                  1,243 mL
   PO:
             TF:
   IVF:
                                                                  1,111 mL
                                                                  1,168 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,730 mL
                                                                  1,580 mL
   Urine:
                                                                  1,730 mL
                                                                  1,580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    131 mL
                                                                   -337 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///29/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, year, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.7 g/dL
   331 K/uL
   78 mg/dL
   0.4 mg/dL
   29 mEq/L
   4.1 mEq/L
   4 mg/dL
   105 mEq/L
   139 mEq/L
   31.5 %
   11.0 K/uL
        [image002.jpg]
                             [**2142-9-22**]  02:33 PM
                             [**2142-9-22**]  11:48 PM
                             [**2142-9-23**]  03:52 AM
                             [**2142-9-23**]  03:00 PM
                             [**2142-9-23**]  11:42 PM
                             [**2142-9-24**]  04:06 AM
                             [**2142-9-25**]  07:24 AM
                             [**2142-9-25**]  11:12 AM
                             [**2142-9-26**]  12:02 AM
                             [**2142-9-26**]  03:51 AM
   WBC
   11.6
   10.6
   11.0
   Hct
   25.5
   25.4
   25.4
   25.3
   25.5
   25.9
   25.5
   33.8
   31.5
   Plt
   [**Telephone/Fax (3) 391**]
   Cr
   0.4
   0.4
   0.4
   TropT
   <0.01
   Glucose
   94
   90
   78
   Other labs: PT / PTT / INR:15.7/32.4/1.3, CK / CKMB /
   Troponin-T:33/3/<0.01, ALT / AST:[**6-7**], Alk Phos / T Bili:99/0.5, Amylase
   / Lipase:80/8, Differential-Neuts:87.3 %, Band:0.0 %, Lymph:9.0 %,
   Mono:3.5 %, Eos:0.1 %, Lactic Acid:1.8 mmol/L, Albumin:2.1 g/dL,
   LDH:165 IU/L, Ca++:7.3 mg/dL, Mg++:1.5 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   GI bleed
   GI BLEED -- no further clinical evidence for GI bleed.  No
   coffee-ground emesis.  Hct stable s/p transfusion.  No further plans
   for interventions.  PICC for access.
   CHF -- evidence for volume overload, may be related to iv fliuds in
   context of diastolic dysfunction (probable).
   HYPOTENSION -- resolved.  Attributed to hypovolemia.  Monitor.
   ABDOMINAL PAIN -- chronic; continue symptomatic relief.
   NUTRITIONAL SUPPORT -- PEG/J poorly functioning --> plan to assess by
   IR to replace.   Nauea limiting PO intake.
   ANEMIA -- attributed to blood loss.  Stable currently.  Monitor daily
   hct, assess for clinical evidence for bleeding.
   FTT -- poor tolerance to TF.   Hope to resume.
   TACHYCARDIA -- improved.  Monitor on current medications.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2142-9-25**] 11:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill